*==============================================================================
* RSpice built-in library - Operational amplifiers
*==============================================================================
*
* Generated by tools/models/build_builtin.py - do not edit by hand.
* Every card below is copied verbatim from a pack under models/spice/;
* edit models/spice/builtin/selection.toml and regenerate instead.
*
* Parts: genopa1, LM358, MCP6041, OP07, TL072, TL082
*

*------------------------------------------------------------------------------
* genopa1
* Parameterisable ideal-ish op-amp for topology work
* Source: community/ngspice-basic-models/upstream/OpAmps/generic_opamp.lib
*------------------------------------------------------------------------------
* generic OpAmp model
* gain, phase, offset, limits to power supply
.subckt genopa1 in+ in- vcc vee out params: POLE=20 GAIN=20k VOFF=10m ROUT=10
Voff in+ inoff dc {VOFF}
G10 0 int inoff in- 100u
R1 int 0 {GAIN/100u}
C1 int 0 {1/(6.28*(GAIN/100u)*POLE)}
Eout 2 0 int 0 1
Rout 2 out {ROUT}
Elow 3 0 vee 0 1
Ehigh 8 0 vcc 0 1
Dlow 3 int Dlimit
Dhigh int 8 Dlimit
.model Dlimit D N=0.01
.ends

*------------------------------------------------------------------------------
* LM358
* Single-supply dual
* Source: community/ngspice-basic-models/upstream/OpAmps/Lm358.mod
* Renamed from upstream 'LM358/NS'; parameters unchanged.
*------------------------------------------------------------------------------


*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Inc.
* Models developed and under copyright by:
* National Semiconductor, Inc.  

*/////////////////////////////////////////////////////////////////////
* Legal Notice: This material is intended for free software support.
* The file may be copied, and distributed; however, reselling the 
*  material is illegal

*////////////////////////////////////////////////////////////////////
* For ordering or technical information on these models, contact:
* National Semiconductor's Customer Response Center
*                 7:00 A.M.--7:00 P.M.  U.S. Central Time
*                                (800) 272-9959
* For Applications support, contact the Internet address:
*  amps-apps@galaxy.nsc.com

*//////////////////////////////////////////////////////////
*LM358 DUAL OPERATIONAL AMPLIFIER MACRO-MODEL
*//////////////////////////////////////////////////////////
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LM358    1   2  99  50  28
*
*Features:
*Eliminates need for dual supplies
*Large DC voltage gain =             100dB
*High bandwidth =                     1MHz
*Low input offset voltage =            2mV
*Wide supply range =       +-1.5V to +-16V
*
*NOTE: Model is for single device only and simulated
*      supply current is 1/2 of total device current.
*      Output crossover distortion with dual supplies
*      is not modeled.
*
****************INPUT STAGE**************
*
IOS 2 1 5N
*^Input offset current
R1 1 3 500K
R2 3 2 500K
I1 99 4 100U
R3 5 50 517
R4 6 50 517
Q1 5 2 4 QX
Q2 6 7 4 QX
*Fp2=1.2 MHz
C4 5 6 128.27P
*
***********COMMON MODE EFFECT***********
*
I2 99 50 75U
*^Quiescent supply current
EOS 7 1 POLY(1) 16 49 2E-3 1
*Input offset voltage.^
R8 99 49 60K
R9 49 50 60K
*
*********OUTPUT VOLTAGE LIMITING********
V2 99 8 1.63
D1 9 8 DX
D2 10 9 DX
V3 10 50 .635
*
**************SECOND STAGE**************
*
EH 99 98 99 49 1
G1 98 9 POLY(1) 5 6 0 9.8772E-4 0 .3459
*Fp1=7.86 Hz
R5 98 9 101.2433MEG
C3 98 9 200P
*
***************POLE STAGE***************
*
*Fp=2 MHz
G3 98 15 9 49 1E-6
R12 98 15 1MEG
C5 98 15 7.9577E-14
*
*********COMMON-MODE ZERO STAGE*********
*
*Fpcm=10 KHz
G4 98 16 3 49 5.6234E-8               
L2 98 17 15.9M
R13 17 16 1K
*
**************OUTPUT STAGE**************
*
F6 50 99 POLY(1) V6 300U 1
E1 99 23 99 15 1
R16 24 23 17.5
D5 26 24 DX
V6 26 22 .63V
R17 23 25 17.5
D6 25 27 DX
V7 22 27 .63V
V5 22 21 0.27V
D4 21 15 DX
V4 20 22 0.27V
D3 15 20 DX
L3 22 28 500P
RL3 22 28 100K
*
***************MODELS USED**************
*
.MODEL DX D(IS=1E-15)
.MODEL QX PNP(BF=1.111E3)
*
.ENDS
*$

*------------------------------------------------------------------------------
* MCP6041
* Micropower rail-to-rail CMOS
* Source: community/ngspice-basic-models/upstream/OpAmps/MCP6041.mod
*------------------------------------------------------------------------------
.SUBCKT MCP6041 1 2 3 4 5
*               | | | | |
*               | | | | Output
*               | | | Negative Supply
*               | | Positive Supply
*               | Inverting Input
*               Non-inverting Input
*
********************************************************************************
* Software License Agreement                                                   *
*                                                                              *
* The software supplied herewith by Microchip Technology Incorporated (the     *
* 'Company') is intended and supplied to you, the Company's customer, for use  *
* soley and exclusively on Microchip products.                                 *
*                                                                              *
* The software is owned by the Company and/or its supplier, and is protected   *
* under applicable copyright laws. All rights are reserved. Any use in         *
* violation of the foregoing restrictions may subject the user to criminal     *
* sanctions under applicable laws, as well as to civil liability for the       *
* breach of the terms and conditions of this license.                          *
*                                                                              *
* THIS SOFTWARE IS PROVIDED IN AN 'AS IS' CONDITION. NO WARRANTIES, WHETHER    *
* EXPRESS, IMPLIED OR STATUTORY, INCLUDING, BUT NOT LIMITED TO, IMPLIED        *
* WARRANTIES OF MERCHANTABILITY AND FITNESS FOR A PARTICULAR PURPOSE APPLY TO  *
* THIS SOFTWARE. THE COMPANY SHALL NOT, IN ANY CIRCUMSTANCES, BE LIABLE FOR    *
* SPECIAL, INCIDENTAL OR CONSEQUENTIAL DAMAGES, FOR ANY REASON WHATSOEVER.     *
********************************************************************************
*
* The following op-amps are covered by this model:
*      MCP6041,MCP6042,MCP6043,MCP6044
*
* Revision History:
*      REV A: 07-Sep-01, Created model
*      REV B: 27-Aug-06, Added over temperature, improved output stage, 
*                        fixed overdrive recovery time
*      REV C: 09-Apr-07, Adjusted quiescent current to match spec
*      REV D: 27-Jul-07, Modified output impedance at expense of comparator operation
*                        to correct transient response with capacitive load
*
* Recommendations:
*      Use PSPICE (other simulators may require translation)
*      For a quick, effective design, use a combination of: data sheet
*            specs, bench testing, and simulations with this macromodel
*      For high impedance circuits, set GMIN=100F in the .OPTIONS statement
*
* Supported:
*      Typical performance for temperature range (-40 to 125) degrees Celsius
*      DC, AC, Transient, and Noise analyses.
*      Most specs, including: offsets, DC PSRR, DC CMRR, input impedance,
*            open loop gain, voltage ranges, supply current, ... , etc.
*      Temperature effects for Ibias, Iquiescent, Iout short circuit 
*            current, Vsat on both rails, Slew Rate vs. Temp and P.S.
*
* Not Supported:
*      Chip select (MCP6043)
*      Some Variation in specs vs. Power Supply Voltage
*      Monte Carlo (Vos, Ib), Process variation
*      Distortion (detailed non-linear behavior)
*      Behavior outside normal operating region
*
* Input Stage
V10  3 10 -500M
R10 10 11 69k
R11 10 12 69k
C12  1  0 6P
C11 11 12 95P
E12 71 14 POLY(6) 20 0 21 0 22 0 23 0 26 0 27 0 2.00M 10 10 29 29 1 1
G12 1 0 62 0 1m
M12 11 14 15 15 NMI
G13 1 2 62 0 20u 
M14 12 2 15 15 NMI 
G14 2 0 62 0 1m
C14  2  0 6P
I15 15 4 4U
V16 16 4 -300M
GD16 16 1 TABLE {V(16,1)} ((-100,-1p)(0,0)(1m,1u)(2m,1m)) 
V13 3 13 -300M
GD13 2 13 TABLE {V(2,13)} ((-100,-1p)(0,0)(1m,1u)(2m,1m)) 
R71  1  0 20.0E12
R72  2  0 20.0E12
R73  1  2 20.0E12
I80  1  2 500E-15
*
* Noise, PSRR, and CMRR
I20 21 20 423U
D20 20  0 DN1
D21  0 21 DN1
I22 22 23 1N
R22 22 0  1k
R23  0 23 1k
G26  0 26 POLY(2) 3 0 4 0   0.00 -79.4U -39.8U
R26 26  0 1
G27  0 27 POLY(2) 1 0 2 0 0 26u 26u
R27 27  0 1
*
* Open Loop Gain, Slew Rate
G30  0 30 12 11 3.2
R30 30  0 1.00K
I31 0 31 DC 338
R31 31  0 1 TC=2.25M,-15U
GD31 30 0 TABLE {V(30,31)} ((-100,-1n)(0,0)(1m,0.1)(2m,2))
I32 32 0 DC 535
R32 32  0 1 TC=2.02M,-11U
GD32 0 30 TABLE {V(30,32)} ((-2m,2)(-1m,0.1)(0,0)(100,-1n))
G33  0 33 30 0 1m
R33  33 0 3K
G34  0 34 33 0 1
R34  34 0 1K
C34  34 0 100M
G37  0 341 34 0 1m
R341  341 0 1k
C341  341 0 1.3N
G371  0 37 341 0 1m
R37  37 0 1K
C37  37 0 3N
G38  0 38 37 0 1m
R38  39 0 1K
L38  38 39 13M
E38  35 0 38 0 1
G35 33 0 TABLE {V(35,3)} ((-1,-1n)(0,0)(3.4k,1n))(3.5k,1))
G36 33 0 TABLE {V(35,4)} ((-3.5k,-1)((-3.4k,-1n)(0,0)(1,1n))
*
* Output Stage
R80 50 0 100MEG
G50 0 50 57 96 2
R58 57  96 0.50
R57 57  0 101k
C58  5  0 2.00P
G57  0 57 POLY(3) 3 0 4 0 35 0 0 10U 1.49U 9.1U
GD55 55 57 TABLE {V(55,57)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
GD56 57 56 TABLE {V(57,56)} ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
E55 55  0 POLY(2) 3 0 51 0 -0.7M 1 -40M
E56 56  0 POLY(2) 4 0 52 0 0.6M 1 -55M
R51 51 0 1k
R52 52 0 1k
GD51 50 51 TABLE {V(50,51)} ((-10,-1n)(0,0)(1m,1m)(2m,1))
GD52 50 52 TABLE {V(50,52)}  ((-2m,-1)(-1m,-1m)(0,0)(10,1n))
G53  3  0 POLY(1) 51 0 -4U 1M
G54  0  4 POLY(1) 52 0 -4U -1M
*
* Current Limit
G99 96 5 99 0 1
R98 0 98 1 TC=-6.9M
G97 0 98 TABLE { V(96,5) } ((-11.0,-3.9M)(-1.00M,-3.87M)(0,0)(1.00M,3.23M)(11.0,3.26M))
E97 99 0 VALUE { V(98)*((V(3)-V(4))*1.39 + -1.5)}
D98 4 5 DESD
D99 5 3 DESD
*
* Temperature / Voltage Sensitive IQuiscent
R61 0 61 1 TC=2.52M,-4.31U
G61 3 4 61 0 1
G60 0 61 TABLE {V(3, 4)} 
+ ((0,0)(700M,5.3N)(770M,10.0N)(1.00,480N)
+ (1.5,500N)(3.5,530N)(7.00,580N))
*
* Temperature Sensistive offset voltage
I73 0 70 DC 1uA
R74 0 70 1 TC=1.5
E75 1 71 70 0 1 
*
* Temp Sensistive IBias
I62 0 62 DC 1uA
R62 0 62 REXP  210U
*
* Models
.MODEL NMI NMOS(L=2.00U W=42.0U KP=20.0U LEVEL=1 )
.MODEL DESD  D   N=1 IS=1.00E-15
.MODEL DN1 D   IS=1P KF=0.2F AF=1
.MODEL REXP RES TCE= 9
.ENDS MCP6041

*------------------------------------------------------------------------------
* OP07
* Precision low-offset
* Source: community/ngspice-basic-models/upstream/OpAmps/Op07.mod
*------------------------------------------------------------------------------
* 
* Linear Technology OP07 op amp model
* Written: 08-24-1989 12:35:59 Type: Bipolar npn input, internal comp.
* Typical specs: 
* Vos=3.0E-05, Ib=1.0E-09, Ios=4.0E-10, GBP=6.0E+05Hz, Phase mar.= 70 deg, 
* SR(+)=2.5E-01V/us, SR(-)=2.4E-01V/us, Av= 114 dB, CMMR= 126 dB, 
* Vsat(+)=2.00V, Vsat(-)=2.00V, Isc=+/-25.0mA, Iq=2500uA
* (input differential mode clamp active)
* 
* Connections: + - V+V-O 
.subckt OP07 3 2 7 4 6
* input
rc1 7  80 8.842E+03
rc2 7  90 8.842E+03
q1  80 102 10 qm1 
q2  90 103 11 qm2 
rb1  2   102 5.000E+02
rb2  3   103 5.000E+02
ddm1 102 104 dm2 
ddm3 104 103 dm2 
ddm2 103 105 dm2 
ddm4 105 102 dm2 
c1  80 90 5.460E-12
re1 10 12 1.948E+03
re2 11 12 1.948E+03
iee 12 4  7.502E-06
re  12 0  2.666E+07
ce  12 0  1.579E-12
* intermediate 
gcm 0  8  12 0  5.668E-11
ga  8  0  80 90 1.131E-04
r2  8  0  1.000E+05
c2  1  8  3.000E-11
gb  1  0  8  0  1.294E+03
* output 
ro1 1  6  2.575E+01
ro2 1  0  3.425E+01
rc  17 0  6.634E-06
gc  0  17 6  0  1.507E+05
d1  1  17 dm1 
d2  17 1  dm1 
d3  6  13 dm2 
d4  14 6  dm2 
vc  7  13 2.803E+00
ve  14 4  2.803E+00
ip  7  4  2.492E-03
dsub 4  7  dm2 
* models 
.model qm1 npn (is=8.000E-16 bf=3.125E+03)
.model qm2 npn (is=8.009E-16 bf=4.688E+03)
.model dm1 d   (is=1.486E-08)
.model dm2 d   (is=8.000E-16)
.ends OP07
* 
* - - - - - * fini OP07 * - - - - - * [oamm vn1 8/89]
**
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1990
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *

*------------------------------------------------------------------------------
* TL072
* JFET-input dual, PARTS macromodel with slew limiting
* Source: community/ngspice-basic-models/upstream/OpAmps/Tl072.mod
*------------------------------------------------------------------------------
* TL072 OPERATIONAL AMPLIFIER "MACROMODEL" SUBCIRCUIT
* CREATED USING PARTS RELEASE 4.01 ON 06/16/89 AT 13:08
* (REV N/A)      SUPPLY VOLTAGE: +/-15V
* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT TL072    1 2 3 4 5
*
  C1   11 12 3.498E-12
  C2    6  7 15.00E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
  FB    7 99 POLY(5) VB VC VE VLP VLN 0 4.715E6 -5E6 5E6 5E6 -5E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 8.942E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100.0E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 2.143E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.200
  VE   54  4 DC 2.200
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800.0E-18)
.MODEL JX PJF(IS=15.00E-12 BETA=270.1E-6 VTO=-1)
.ENDS

*------------------------------------------------------------------------------
* TL082
* JFET-input dual
* Source: community/ngspice-basic-models/upstream/OpAmps/Tl082.mod
*------------------------------------------------------------------------------
* TL082 operational amplifier "macromodel" subcircuit
* created using Parts release 4.01 on 08/08/91 at 13:08
* (REV N/A)
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt TL082	 1 2 3 4 5
*
  c1   11 12 3.498E-12
  c2    6  7 15.00E-12
  dc    5 53 dx
  de   54  5 dx
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 4.715E6 -5E6 5E6 5E6 -5E6
  ga    6  0 11 12 282.8E-6
  gcm   0  6 10 99 8.942E-9
  iss   3 10 dc 195.0E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx
  j2   12  1 10 jx
  r2    6  9 100.0E3
  rd1   4 11 3.536E3
  rd2   4 12 3.536E3
  ro1   8  5 150
  ro2   7 99 150
  rp    3  4 2.143E3
  rss  10 99 1.026E6
  vb    9  0 dc 0
  vc    3 53 dc 2.200
  ve   54  4 dc 2.200
  vlim  7  8 dc 0
  vlp  91  0 dc 25
  vln   0 92 dc 25
.model dx D(Is=800.0E-18)
.model jx PJF(Is=15.00E-12 Beta=270.1E-6 Vto=-1)
.ends


