* Generic diode model: 217C   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 217C_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00018412289
.ENDS   

* Generic diode model: 2B7   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 2B7_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 6.8041382e-05
.ENDS   
*   
* Generic diode model: 2X2   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 2X2_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 1.7074694e-05
.ENDS   

* Generic diode model: 5AR4   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5AR4_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.0032100303
.ENDS   
*   
* Generic diode model: 5R4   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5R4_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00045585614
.ENDS   
*   
* Generic diode model: 5T4   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5T4_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00083852549
.ENDS   
*   
* Generic diode model: 5U4G   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5U4G_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00077090969
.ENDS   
*   
* Generic diode model: 5U4GB   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5U4GB_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00077781746
.ENDS   
*   
* Generic diode model: 5V4   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5V4_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.0016198477
.ENDS   
*   
* Generic diode model: 5W4   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5W4_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00031112698
.ENDS   
*   
* Generic diode model: 5Y3   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5Y3_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00035355339
.ENDS   
*   
* Generic diode model: 5Z3   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5Z3_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.0005093784
.ENDS   
*   
* Generic diode model: 5Z4   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 5Z4_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.0012909944
.ENDS   

* Generic diode model: 6AL5   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6AL5_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.0018973666
.ENDS   

* Generic diode model: 6AX4   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6AX4_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.0013810679
.ENDS   

* Generic diode model: 6CA4   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6CA4_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.001677051
.ENDS   

* Generic diode model: 6H6   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6H6_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.0003786917
.ENDS   

* Generic diode model: 6SQ7D   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6SQ7D_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 6.3245553e-05
.ENDS   

* Generic diode model: 6X4   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6X4_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00067836592
.ENDS   
*   
* Generic diode model: 6X5   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 6X5_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00067082039
.ENDS   

* Generic diode model: 80   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 80_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00026895718
.ENDS   

* Generic diode model: 81   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 81_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00019583343
.ENDS   
*   
* Generic diode model: 82   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 82_ayumi A K
BIA A K I=URAMP(V(A,K)-15)/4
.ENDS   

*   
* Generic diode model: 83   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 83_ayumi A K
BIA A K I=URAMP(V(A,K)-15)/4
.ENDS   
*   
* Generic diode model: 836   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 836_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00055901699
.ENDS   
*   
* Generic diode model: 83V   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 83V_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.0014
.ENDS   
*   
* Generic diode model: 84   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 84_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 0.00067082039
.ENDS   

* Generic diode model: 878   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 878_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 7.8e-06
.ENDS   
*   
* Generic diode model: 879   
* Copyright 2007--2008 by Ayumi Nakabayashi, All rights reserved.   
* Version 3.10, Generated on Sat Mar  8 23:08:31 2008
.SUBCKT 879_ayumi A K
BIA A K I=URAMP(V(A,K))^1.5 * 1.0606602e-05
.ENDS   
;$SpiceType=SPICE3
